US08030519B2
Preparation of Acetoacet-m-xylidide
After the pressure drop (column 1: approx. 45 mbar, column 2: approx. 25 mbar) und the temperature profile (73-77° C.) had stabilized, m-xylidine (16.9 kg/h) was fed to the 2nd plate and diketene (total 12.0 kg/h) to plate Nos. 14, 15 and 16 of the first column. The diketene feed was started only after the xylidine-containing reflux had reached plate No. 14.

reactant | m-xylidine | CC1=CC(=C(C=C1)N)C | C8H11N
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | xylidine | NC1=C(C(=CC=C1)C)C | C8H11N
product | Acetoacet-m-xylidide | CC1=CC(=C(C=C1)NC(=O)CC(=O)C)C | C12H15NO2
